US05213709
In a 200 ml-three-necked flask, 6.00 g (20.5 mM) of 2-octanoylfluorene, 3.06 ml (50.4 mM) of hydrazine hydrate (80% aqueous solution), 4.20 g (63.6 mM) of potassium hydroxide and 60 ml of diethyleneglycol were placed, followed by heating to about 130° C. to dissolve the mixture. Then, the mixture was gradually heated to 210°-217° C., followed by stirring for 3 hours and 40 minutes under heating. After the reaction, the reaction mixture was cooled and poured into 250 ml of water to precipitate a crystal. The crystal was recovered by filtration and dissolved in toluene, followed by washing with water, drying with anhydrous sodium sulfate and distilling-off of the solvent. The residue was purified by silica gel column chromatography (eluent: toluene/hexane=1/2) to obtain 4.58 g of 2-octylfluorene.

reactant | 2-octanoylfluorene | 20.5 mM, 6.00 g | C(CCCCCCC)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C21H24O
reactant | hydrazine hydrate | 50.4 mM, 3.06 ml | O.NN
reactant | potassium hydroxide | 63.6 mM, 4.20 g | [OH-].[K+]
reactant | diethyleneglycol | 60 ml | C(COCCO)O | C4H10O3
solvent | water | 250 ml | O | H2O
product | 2-octylfluorene | 4.58 g | C(CCCCCCC)C1=CC=2CC3=CC=CC=C3C2C=C1 | C21H26
